US06740662B1
To a 10 ml DMF solution containing 500 mg of 4-(3-chlorophenyl)-1-ethyl-3-(3-hydroxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one were added 500 mg of potassium carbonate and 0.5 ml of methyl iodide, followed by stirring under heating at an oil bath temperature of 80° C. for 2 hours. Thereafter, 1.0 g of potassium carbonate and 1.0 ml of methyl iodide were further added thereto, followed by stirring under heating at an oil bath temperature of 80° C. for a whole day and night. After the reaction mixture was cooled to room temperature, water was added thereto, and the whole was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by a silica gel column chromatography (hexane-ethyl acetate) and then recrystallized from hexane-diisopropyl ether to obtain 160 mg of 4-(3-chlorophenyl)-1-ethyl-3-[3-(methoxycarbonyloxy)propyl]-7-methyl-1,8-naphthyridin-2(1H)-one as colorless crystals.

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 4-(3-chlorophenyl)-1-ethyl-3-(3-hydroxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one | 500 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCCO | C20H21ClN2O2
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.5 ml | CI | CH3I
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.0 ml | CI | CH3I
solvent | water | O | H2O
product | 4-(3-chlorophenyl)-1-ethyl-3-[3-(methoxycarbonyloxy)propyl]-7-methyl-1,8-naphthyridin-2(1H)-one | 160 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCCOC(=O)OC | C22H23ClN2O4
